US09169259B2
A mixture of 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxylic acid (500 mg, 1.26 mmol), 5-aminoisoindoline-1,3-dione (250 mg, 1.51 mmol) and pyridine (10 mL) was stirred at 0° C. for 2 h. POCl3 (20 drops) was added and stirred for 10 mins, then water (5 mL) was added and the mixture extracted with ethyl acetate (10 mL). The organic layer was washed with brine (10 mL), then dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give the product. HCl (1 mL) was added and then the mixture concentrated in vacuo to give 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(1,3-dioxoisoindolin-5-yl)piperidine-3-carboxamide hydrochloride (10 mg, 2%). 1H NMR (300 MHz, DMSO): δ 11.23 (s, 1H), 10.65 (s, 1H), 10.21 (s, 1H), 8.15 (s, 2H), 7.98 (s, 1H), 7.86 (d, 1H, J=8.4 Hz), 7.77 (d, 1H, J=7.8 Hz), 7.43 (d, 1H, J=8.1 Hz), 6.93 (d, 1H, J=8.1 Hz), 4.29 (d, 1H, J=11.7 Hz), 4.14 (d, 1H, J=12.3 Hz), 3.91 (s, 3H), 7.56 (s, 3H), 3.23-3.02 (m, 2H), 2.73 (s, 1H), 2.10-2.06 (s, 1H), 1.82-1.75 (m, 3H). LC-MS: [M+H]+, 543, tR=1.406 min, HPLC: 98.08% at 214 nm, 98.69% at 254 nm, tR=5.25 min.

reactant | 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxylic acid | 1.26 mmol, 500 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CCC1)C(=O)O)C=CN2 | C19H22N6O4
reactant | 5-aminoisoindoline-1,3-dione | 1.51 mmol, 250 mg | NC=1C=C2C(NC(C2=CC1)=O)=O | C8H6N2O2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 mL | Cl | ClH
catalyst | POCl3 | 20 drops | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | 5 mL | O | H2O
product | 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(1,3-dioxoisoindolin-5-yl)piperidine-3-carboxamide hydrochloride | 10 mg, 2% | Cl.COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CCC1)C(=O)NC=1C=C3C(NC(C3=CC1)=O)=O)C=CN2 | InChI=1S/C27H26N8O5.ClH/c1-39-20-7-8-21(31-27(20)40-2)30-19-13-22(33-35-11-9-28-23(19)35)34-10-3-4-15(14-34)24(36)29-16-5-6-17-18(12-16)26(38)32-25(17)37;/h5-9,11-13,15H,3-4,10,14H2,1-2H3,(H,29,36)(H,30,31)(H,32,37,38);1H
